US09060515B2
To a suspension of sodium hydride (36 mg, 0.89 mmol) in DMSO (2 mL) was added the solid trimethyl sulfoxonium iodide (185 mg, 1.05 mmol). The mixture was stirred for 25 min before a solution of ethyl (E)-3-(4-aminophenyl)prop-2-enoate (100 mg, 0.52 mmol) in DMSO (2 mL) was added quickly at RT. The mixture was left to stir overnight. The bulk mixture was quenched with NH4Cl (sat.) and the mixture diluted with water and EtOAc. The layers were separated and the aqueous layer extracted into EtOAc (3×30 mL). The organic fractions were combined, dried with brine then MgSO4 and the solvent removed. Flash chromatography on silica gel, eluting with 20-50% ethyl acetate gradient in n-heptane, gave ethyl (1R,2R)-2-(4-aminophenyl)cyclopropanecarboxylate, 70 mg. 1H NMR (400 MHz, CDCl3) δ 6.96-6.89 (m, 2H), 6.68-6.61 (m, 2H), 4.17 (q, J=7.1 Hz, 2H), 2.44 (ddd, J=9.2, 6.6, 4.2 Hz, 1H), 1.80 (ddd, J=8.4, 5.2, 4.2 Hz, 1H), 1.53 (ddd, J=9.2, 5.2, 4.5 Hz, 1H), 1.28 (t, J=7.1 Hz, 3H), 1.24 (ddd, J=8.3, 6.6, 4.5 Hz, 1H).

reactant | sodium hydride | 0.89 mmol, 36 mg | [H-].[Na+]
reactant | trimethyl sulfoxonium iodide | 1.05 mmol, 185 mg | [I-].C[S+](=O)(C)C
reactant | ethyl (E)-3-(4-aminophenyl)prop-2-enoate | 0.52 mmol, 100 mg | NC1=CC=C(C=C1)/C=C/C(=O)OCC | C11H13NO2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | ethyl (1R,2R)-2-(4-aminophenyl)cyclopropanecarboxylate | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OCC | C12H15NO2
